US04997844
6-Hexanamidoindole was alkylated with 2-(3-bromopropoxy)tetrahyro-2H-pyran using a similar procedure to that described in Example 23 to give 2-[3-(6-hexanamidoindol-1-yl)propoxy]tetrahydro-2H-pyran in 81% yield as an oil, which was used without characterisation.

reactant | 6-Hexanamidoindole | C(CCCCC)(=O)NC1=CC=C2C=CNC2=C1 | C14H18N2O
reactant | 2-(3-bromopropoxy)tetrahyro-2H-pyran | BrCCCOC1OCCCC1 | C8H15BrO2
product | 2-[3-(6-hexanamidoindol-1-yl)propoxy]tetrahydro-2H-pyran | 81% yield | C(CCCCC)(=O)NC1=CC=C2C=CN(C2=C1)CCCOC1OCCCC1 | C22H32N2O3
